US08563565B2
(1) Synthesis of 5-amino-4,6-dibromopicolinonitrile
5-amino-2-cyanopyridine (2 g) was added to a 48% aqueous hydrogen bromide solution (14 mL). Bromine (2.2 mL) was added to the solution at 0° C. The reaction mixture was warmed to room temperature and stirred for six hours. The precipitated solid was collected by filtration to give the title compound (4.5 g).

reactant | 5-amino-2-cyanopyridine | 2 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | hydrogen bromide | 14 mL | Br | BrH
reactant | Bromine | 2.2 mL | BrBr | Br2
product | 5-amino-4,6-dibromopicolinonitrile | 4.5 g | NC=1C(=CC(=NC1Br)C#N)Br | C6H3Br2N3
